US07151105B2
Step 1: (4-Bromo-2-ethyl-benzyl)-dimethyl-amine
To a solution of 4-bromo-1-bromomethyl-2-ethyl-benzene (1.12 g, 4.03 mmol) in MeOH (20 mL) was added dimethylamine (2.5 mL, 40% solution in water). The mixture was stirred for 1 hour, at which time the volatiles were removed in vacuo. The residue was dissolved in EtOAc, washed with H2O, dried over MgSO4, and concentrated to a clear oil (0.910 g, 93%). 1H NMR (300 MHz, CDCl3): δ 1.19 (t, J=7.5 Hz, 3 H), 2.21 (s, 6 H), 2.69 (q, J=7.5 Hz, 2 H), 3.32 (s, 2 H), 7.14 (m, 1 H), 7.28 (m, 2 H).

reactant | 4-bromo-1-bromomethyl-2-ethyl-benzene | 4.03 mmol, 1.12 g | BrC1=CC(=C(C=C1)CBr)CC | C9H10Br2
reactant | dimethylamine | 2.5 mL | CNC | C2H7N
solvent | MeOH | 20 mL | CO | CH4O
product | (4-Bromo-2-ethyl-benzyl)-dimethyl-amine | BrC1=CC(=C(CN(C)C)C=C1)CC | C11H16BrN
